US04053472
1.7 g. of 5-nitro-1-methyl-2-imidazolyl carboxylic acid and 1.08 g. of o-phenylenediamine are heated for 40 minutes in a bomb tube to 180° C. in 10 ml. of 25% hydrochloric acid. After evaporating the reaction mixture to dryness and column chromatography on 100 g. of silica gel with methanol-chloroform 1 : 1, 120 mg. of 2-(5-nitro-1-methyl-2-imidazolyl)-benzimidazole is obtained, m.p. 257° C.

reactant | 5-nitro-1-methyl-2-imidazolyl carboxylic acid | [N+](=O)([O-])C1=CN=C(N1C)C(=O)O | C5H5N3O4
reactant | o-phenylenediamine | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | hydrochloric acid | Cl | ClH
product | 2-(5-nitro-1-methyl-2-imidazolyl)-benzimidazole | [N+](=O)([O-])C1=CN=C(N1C)C=1NC2=C(N1)C=CC=C2 | C11H9N5O2
